US05128425
Synthesis of N-phenyl-N-(2-hydroxy-3-phenoxypropyl)-acetoacetamide [(D)-2]
Acetoacetanilide was mixed with phenyl glycidyl ether in a molar ratio of 1:1.2, and a reaction was allowed to proceed by heating the mixture at 170° C. for 1 hour. Then, the remaining unreacted phenyl glycidyl ether was removed in the same manner as in Reference Example 1, thereby obtaining a reaction product, (D)-2. Reaction product (D)-2 was further subjected to infrared spectrophotometry and gel permeation chromatography in the same manner as in Reference Example 1. This reaction product (D)-2 was a mixture containing, besides the desired compound formed by the reaction of the 1:1 reactants, high molecular weiqht compounds formed through further reactions.

reactant | Acetoacetanilide | C(CC(=O)C)(=O)NC1=CC=CC=C1 | C10H11NO2
reactant | phenyl glycidyl ether | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
product | N-phenyl-N-(2-hydroxy-3-phenoxypropyl)-acetoacetamide | C1(=CC=CC=C1)N(C(CC(=O)C)=O)CC(COC1=CC=CC=C1)O | C19H21NO4
